US03979381
2,3,3a,4,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-5,5dioxide
A mixture of 5.0g of tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one-1,1-dioxide and 600mg of anhydrous hydrazine in 300ml of methanol is heated at reflux temperature for 2 hours. The mixture is cooled in an ice bath, filtered, and the product is washed with fresh methanol. The filtrate and washings are concentrated to about 100ml and cooled in an ice bath, yielding an additional small amount of product. The combined yield is 4.7g of the title compound, melting point 202°-208°C, dec.

reactant | tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one-1,1-dioxide | 5.0g | C1(=CC=CC=C1)C=C1CS(CC(C1=O)=CC1=CC=CC=C1)(=O)=O | C19H16O3S
reactant | hydrazine | 600mg | NN | H4N2
solvent | methanol | 300ml | CO | CH4O
product | 2,3,3a,4,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-5,5dioxide | yield is 4.7g | C1(=CC=CC=C1)C1C2C(=NN1)C(CS(C2)(=O)=O)=CC2=CC=CC=C2 | C19H18N2O2S
